US04902784
Synthesis of 1-(1-butyl)-3-cyclohexylurea
One hundred mL of tetrahydrofuran (THF) was added to a dry 500 mL round bottom 3-neck flask equipped with a thermometer, pressure equalizing addition funnel capped with a drying tube, nitrogen inlet and magnetic stirrer. Then 17.24 mL (0.15 moles) of 98% n-butyl isocyanate was added under nitrogen. A solution of 17.33 mL (0.15 moles) of 99% cyclohexylamine in 46 mL of THF was added to the addition funnel and slowly dropped into the stirred solution of n-butyl isocyanate at a rate (about 20 min.) which maintained the temperature below 40° C. The reaction mixture was stirred for one hour after completion of the addition. The solvent was removed by rotary evaporation. The white residue was vacuum dried for 12 hours at room temperature. The yield of dried, crystalline white product was quantitative. The product melted sharply at 107°-108° C. (uncorrected).

reactant | n-butyl isocyanate | 0.15 moles, 17.24 mL | C(CCC)N=C=O | C5H9NO
reactant | cyclohexylamine | 0.15 moles, 17.33 mL | C1(CCCCC1)N | C6H13N
solvent | THF | 46 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | One hundred mL | O1CCCC1 | C4H8O
product | 1-(1-butyl)-3-cyclohexylurea | C(CCC)NC(=O)NC1CCCCC1 | C11H22N2O
